US08809363B2
Ethoxy[4-(2-hydroxy-4-methylphenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetic acid
To a stirred solution of Ethoxy-[4-(2-hydroxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-acetic acid ethyl ester (20 mg, 45 μmols) in ethanol (1 mL) and tetrahydrofuran (1 mL) was added the sodium hydroxide (2N aqueous, 0.5 mL, 20 eq) and the reaction was stirred at 60° C. for 5 hours. The reaction was concentrated in vacuo until all organic solvents had been removed, the aqueous residue was then acidified with hydrochloric acid (2N aqueous) to pH 2. A pale yellow solid, 4 mg (16% yield) was filtered off and analysed and found to contain ethoxy-[4-(2-hydroxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-acetic acid. LC-MS (12 min acidic) 5.04 mins 47-43% pure by UV, ES+/APCI+ 412, ES−/APCI− 410; 5.80 mins 12-13% pure by UV, ES+/APCI+ 412, ES−/APCI− 410.

reactant | Ethoxy-[4-(2-hydroxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-acetic acid ethyl ester | 45 μmols, 20 mg | C(C)OC(C(C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=C(C=C(C=C1)C)O)OCC)=O | C25H29NO4S
reactant | sodium hydroxide | 2N, 0.5 mL, 20 eq | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | Ethoxy[4-(2-hydroxy-4-methylphenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetic acid | 16% yield | C(C)OC(C(=O)O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=C(C=C(C=C1)C)O | C23H25NO4S
